US07365088B2
(i) 1H-Indazole-3-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide
To a solution of 300 mg 1H-Indazole-3-carboxylic acid in 3 mL DMF and 1 mL NEt3, 398 mg 1-Isopropyl-piperidin-4-ylamine hydrochloride and 471 mg BOP-Cl were added at RT and the mixture was stirred for 16 h. After the addition of 5 mL water the mixture was filtered through a chem elut® cartridge by elution with ethyl acetate and then concentrated under reduced pressure. The residue was directly subjected to the subsequent alkylation reaction without further purification. Yield: 340 mg.

reactant | 1H-Indazole-3-carboxylic acid | 300 mg | N1N=C(C2=CC=CC=C12)C(=O)O | C8H6N2O2
reactant | 1-Isopropyl-piperidin-4-ylamine hydrochloride | 398 mg | Cl.C(C)(C)N1CCC(CC1)N
reactant | BOP-Cl | 471 mg | C1COC(=O)N1P(=O)(N2CCOC2=O)Cl | C6H8ClN2O5P
reactant | water | 5 mL | O | H2O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | NEt3 | 1 mL | CCN(CC)CC | C6H15N
product | 1H-Indazole-3-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide | C(C)(C)N1CCC(CC1)NC(=O)C1=NNC2=CC=CC=C12 | C16H22N4O
